US08440689B2
C. 2-((1R,2S)-2-Aminocyclohexylamino)-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-5-one
A mixture of crude tert-butyl (1S,2R)-2-(6-(2,4-dimethoxybenzyl)-5-oxo-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-2-ylamino)cyclohexylcarbamate (235 mg, 0.390 mmol) in TFA (5 mL) was stirred at 60° C. for 2 h and was then purified by reverse phase preparative HPLC. The fractions were collected, concentrated under reduced pressure, diluted in EtOAc, and basified with an aqueous saturated solution of NaHCO3. The organic extract was dried and concentrated under reduced pressure to give the title compound as a white solid (60 mg, 44%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.33-1.60 (m, 10H), 2.32 (s, 3H), 3.16 (m, 2H), 3.92 (br s, 1H), 4.14 (s, 2H), 6.88 (d, J=7.07 Hz, 1H), 7.13 (br s, 1H), 7.22 (t, J=7.45 Hz, 1H), 7.34-7.55 (m, 1H), 7.70 (br s, 1H), 8.01 (br s, 1H), 8.58 (br s, 1H). [M+H] calc'd for C19H24N6O, 353. found, 353.

reactant | tert-butyl (1S,2R)-2-(6-(2,4-dimethoxybenzyl)-5-oxo-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-2-ylamino)cyclohexylcarbamate | 0.390 mmol, 235 mg | COC1=C(CN2CC=3N=C(N=C(C3C2=O)NC=2C=C(C=CC2)C)N[C@H]2[C@H](CCCC2)NC(OC(C)(C)C)=O)C=CC(=C1)OC | C33H42N6O5
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-((1R,2S)-2-Aminocyclohexylamino)-4-(m-tolylamino)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidin-5-one | 60 mg, 44% | N[C@@H]1[C@@H](CCCC1)NC=1N=C(C2=C(N1)CNC2=O)NC=2C=C(C=CC2)C | C19H24N6O
